US07030128B2
3-Tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine was reacted with 5-bromo-2-phenylpyridine (prepared according to the procedure of Tilley and Zawoiski, J. Org. Chem., 1988, 53(2), 386-90) by the method of Example 1 to afford 3-(2-phenylpyridin-5-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 7.30 (1H, d, J 7), 7.47-7.56 (3H, m), 7.96 (2H, m), 8.09 (2H, dd, J 8 and 1), 8.19 (1H, s), 8.83 (1H, d, J 7), 8.93 (1H, d, J 2); m/z (ES+) 340 (M++H).

reactant | 3-Tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
reactant | 5-bromo-2-phenylpyridine | BrC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8BrN
product | 3-(2-phenylpyridin-5-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | C1(=CC=CC=C1)C1=NC=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H11F3N4
